US04282242
2-(4-Phenylbenzoylmethyl)imidazo[3,4-a]pyridinium bromide (16 g., 40 mmoles), potassium carbonate (22 g., 160 mmoles) and ethyl propiolate (6.4 ml., 48 mmoles) were combined according to the procedure of Example 69, stirred for approximately 16 hours at room temperature, then isolated and converted to hydrochloride according to the procedure of Example 69, to yield ethyl 1-(2-pyridylmethyl)-5-(4-phenylbenzoyl)pyrrole-3-carboxylate (5.3 g., intermediate Rf on silica gel thin layer chromatography with ethyl acetate/5% acetic acid as eluant).

reactant | 2-(4-Phenylbenzoylmethyl)imidazo[3,4-a]pyridinium bromide | 40 mmoles, 16 g | [Br-].C1(=CC=CC=C1)C1=CC=C(C(=O)C[N+]2=CN3C(C=CC=C3)=C2)C=C1
reactant | potassium carbonate | 160 mmoles, 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl propiolate | 48 mmoles, 6.4 ml | C(C#C)(=O)OCC | C5H6O2
reactant | hydrochloride | Cl | ClH
product | ethyl 1-(2-pyridylmethyl)-5-(4-phenylbenzoyl)pyrrole-3-carboxylate | 5.3 g, 5% | N1=C(C=CC=C1)CN1C=C(C=C1C(C1=CC=C(C=C1)C1=CC=CC=C1)=O)C(=O)OCC | C26H22N2O3
